US07452893B2
Step 7: N-[trans-3-[2-(4-Methylphenyl)ethoxy]cyclopentyl}-1H-pyrazolo[3,4-d]pyrimidin-4-amine
Racemic N-[trans-3-[2-(4-methylphenyl)ethoxy]cyclopentyl}-1H-pyrazolo[3,4-d]pyrimidin-4-amine hydrochloride was resolved by preparative chiral HPLC (Chiralcel OJ column, 5×50 mm, hexane: 2-propanol: diethylamine (40:60:0.1), 70 ml/min. The first enantiomer to elute was (+)-N-[trans-3-[2-(4-methylphenyl)ethoxy]cyclopentyl}-1H-pyrazolo[3,4-d]pyrimidin-4-amine (74 mg) as a white solid. Mass spec.: 338.3 (M+1). [α]D=+16° (c=0.214, methanol).

reactant | Racemic N-[trans-3-[2-(4-methylphenyl)ethoxy]cyclopentyl}-1H-pyrazolo[3,4-d]pyrimidin-4-amine hydrochloride | Cl.CC1=CC=C(C=C1)CCO[C@@H]1C[C@H](CC1)NC1=C2C(=NC=N1)NN=C2
reactant | hexane 2-propanol diethylamine | CCCCCC.CC(C)O.C(C)NCC
product | N-[trans-3-[2-(4-Methylphenyl)ethoxy]cyclopentyl}-1H-pyrazolo[3,4-d]pyrimidin-4-amine | CC1=CC=C(C=C1)CCO[C@@H]1C[C@H](CC1)NC1=C2C(=NC=N1)NN=C2 | C19H23N5O
